US07087761B2
2-Amino-6-methyl-benzothiazole
(4-Methylphenyl)thiourea (2 mmol) was added to AcOH (4 ml), and the suspension was heated to 80° C. To the solution formed was added 33% HBr in AcOH (4 mmol) followed by DMSO (2.1 mmol). After stirring at 80° C. for 1 h, the reaction mixture was cooled to 50° C., diluted with EtOAc (10 ml) and filtered. The product (as HBr-salt) was taken up in H2O (5 ml) and treated with 1M aq. NaHCO3 (2 ml). Stirring was continued for 0.2 h. The precipitated aminobenzothiazole was then filtered, washed with H2O (10 ml) and dried (16 h at 45° C./20 mb); yield 67%.

reactant | (4-Methylphenyl)thiourea | 2 mmol | CC1=CC=C(C=C1)NC(=S)N | C8H10N2S
reactant | AcOH | 4 ml | CC(=O)O | C2H4O2
reactant | HBr | Br | BrH
reactant | AcOH | 4 mmol | CC(=O)O | C2H4O2
reactant | DMSO | 2.1 mmol | CS(=O)C | C2H6OS
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 2-Amino-6-methyl-benzothiazole | yield 67% | NC=1SC2=C(N1)C=CC(=C2)C | C8H8N2S
